US08222246B2
N-Cyclopropylmethyl-6-[3-(3,4-difluoro-phenyl)-5-hydroxymethyl-isoxazol-4-ylmethoxy]-nicotinamide
Trimethylaluminium solution (2 M in toluene, 0.8 mL, 1.60 mmol) was added to a solution of aminomethylcyclopropane (78 mg, 1.06 mmol) in dioxane (5 mL). The mixture was stirred for 1 h at 50° C. Then a solution of 6-[3-(3,4-difluoro-phenyl)-5-hydroxymethyl-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester (100 mg, 0.27 mmol) in dioxane (5 mL) was added. The reaction mixture was stirred overnight at 85° C. The dioxane was removed by distillation. The remaining material was purified by chromatography (silica, ethyl acetate:heptane=2:3 to 3:2) to afford the title compound (30 mg, 27%) as a colourless oil. MS: m/e=416.2 [M+H]+.

reactant | Trimethylaluminium | 1.60 mmol, 2 M, 0.8 mL | C[Al](C)C
reactant | aminomethylcyclopropane | 1.06 mmol, 78 mg | NCC1CC1 | C4H9N
reactant | 6-[3-(3,4-difluoro-phenyl)-5-hydroxymethyl-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester | 0.27 mmol, 100 mg | COC(C1=CN=C(C=C1)OCC=1C(=NOC1CO)C1=CC(=C(C=C1)F)F)=O | C18H14F2N2O5
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | N-Cyclopropylmethyl-6-[3-(3,4-difluoro-phenyl)-5-hydroxymethyl-isoxazol-4-ylmethoxy]-nicotinamide | 30 mg, 27% | C1(CC1)CNC(C1=CN=C(C=C1)OCC=1C(=NOC1CO)C1=CC(=C(C=C1)F)F)=O | C21H19F2N3O4
